US07115611B2
A] 2-{4-[4-(2-Methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester
To a solution of 133 mg (0.40 mmol) 5-chloromethyl-4-(2-methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine (example 101F]) and 95 mg (0.40 mmol) 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) in 12 ml of acetonitrile was added 143 mg (0.44 mmol) cesium carbonate. The reaction mixture was stirred for 16 h at RT. The mixture was filtered, taken up in dichloromethane dried (Na2SO4) and evaporated. The crude product was purified by flash chromatography over silica gel with heptane/AcOEt 9:1, to give 119 mg of the title compound as light yellow viscous oil.

reactant | 5-chloromethyl-4-(2-methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | 0.40 mmol, 133 mg | ClCC=1C(=NC(=NC1)C=1C=NC(=CC1)C(F)(F)F)CCOC | C14H13ClF3N3O
reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.40 mmol, 95 mg | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | cesium carbonate | 0.44 mmol, 143 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 2-{4-[4-(2-Methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | 119 mg | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=NC1)C=1C=NC(=CC1)C(F)(F)F)CCOC)C)=O | C27H30F3N3O5
